US08293897B2
Step 5) N-(5-(7-((N-(4-oxaspiro[2.4]heptane-6-yl)-tert butoxycarbonylamino) propoxy)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide
To a solution of N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide (200.6 mg, 0.44 mmol) and cesium carbonate (684.6 mg, 2.1 mmol, Aladdin) in N,N-dimethylacetamide (1 mL) was added (N-(4-oxaspiro[2.4]heptane-6-yl)-tert butoxycarbonylamino)propyl methanesulfonate (0.63 mmol) in N,N-dimethylacetamide (5 mL). After stirring at 40° C. for 2 days, the reaction mixture was concentrated in vacuo. The residue was chromatographed with a silica gel column (1:4 (v/v) n-hexane/EtOAc) to give the title compound as a white solid (200 mg, 62.5%).

reactant | N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 0.44 mmol, 200.6 mg | OC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C26H21N5O4
reactant | cesium carbonate | 2.1 mmol, 684.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (N-(4-oxaspiro[2.4]heptane-6-yl)-tert butoxycarbonylamino)propyl methanesulfonate | 0.63 mmol | CS(=O)(=O)OCCCN(C1COC2(CC2)C1)C(=O)OC(C)(C)C | C15H27NO6S
solvent | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-(5-(7-((N-(4-oxaspiro[2.4]heptane-6-yl)-tert butoxycarbonylamino) propoxy)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 200 mg, 62.5% | C1CC12OCC(C2)N(C(=O)OC(C)(C)C)CCCOC2=CC=C1C(=CC=NC1=C2)OC=2C=CC(=NC2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O | C40H44N6O7
